datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[O]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C)[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)[H]>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C1=CC=CC=C1)C>>CC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21]C>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)C 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CC)CC 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C1=CC=CC=C1)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[H][S+:10](C(C)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C)C 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C)CCCCCC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](C)[S]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C([H])C(C)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S]C([H])C(C)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C1=CC=CC=C1)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21]C 10=20;20,21=21"
"[OH:10]C(CCC)C([H])C([C:20](C)=[OH+:21])O>>[OH:21][C:20]1(C)[OH+:10]C(CCC)C([H])C1O 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)OC1=CC=CC=C1)C>>C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O]C.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[O:10]([K])C([H])/C([H])=C(C)\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)=C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
